US06268451B1
Preparation of (2-dichloromethylsilyl-ethyl)styrene (DSiSt)
A 500 ml three-neck, round bottom flask equipped with a magnetic stirrer, a condenser and an addition funnel was charged with 60 ml (0.337 mol) of divinylbenzene (Aldrich Chemical Co., Milwaukee, Wis.); mixture of 80% m- and p- isomers and 20% ethylvinylbenzene) under an argon atmosphere and at room temperature (RT). While stirring, 200 ml of distilled and dried hexanes were added followed by 0.5 ml of the above described platinum catalyst solution (SIP6830.0 from Gelest). Dichloromethylsilane (39.0 ml; 0.371 mol) was placed in the addition funnel, the argon supply was disrupted and a drying tube was attached to the system. The dichloromethylsilane was added dropwise at room temperature and the reaction was monitored by 1H NMR spectroscopy. After 48 hours, it was determined that hydrosilation was complete, the addition funnel and condenser were replaced by a distillation head and the crude product was purified by fractional distillation. The desired product was obtained as a mixture, 77% thereof corresponding to a combination of meta- and para-(2-dichloromethylsilyl-ethyl)-styrene (DSiSt) of the formula

reactant | divinylbenzene | 0.337 mol, 60 ml | C(=C)C1=C(C=CC=C1)C=C | C10H10
reactant | ethylvinylbenzene | C(C)C=CC1=CC=CC=C1 | C10H12
reactant | Dichloromethylsilane | 0.371 mol, 39.0 ml | ClC(Cl)[SiH3] | CH4Cl2Si
product | (2-dichloromethylsilyl-ethyl)styrene | ClC(Cl)[SiH2]CCC=CC1=CC=CC=C1 | C11H14Cl2Si
